US07985755B2
[4-(2,4-Diamino-quinazolin-5-yl)-piperazin-1-yl]-(3,4-dichloro-phenyl)-methanone
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 3,4-Dichlorobenzoyl chloride (85.9 mg; 0.41 mmol) to obtain 52.5 mg. (63% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.77 (br s, 1H), 7.75 (m, 2H), 7.47 (m, 1H), 7.4 (t, J=8.0 Hz, 1H), 7.18 (br s, 1H), 6.98 (dd, J=8.4, 0.8 Hz, 1H), 6.85 (dd, J=7.6, 0.8 Hz, 1H), 5.93 (s, 2H), 4.55 (br s, 1H), 3.61 (br s, 1H), 3.45 (br s, 1H), 3.14 (m, 3H), 2.79 (m, 2H). ESIMS+419.3 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 3,4-Dichlorobenzoyl chloride | 0.41 mmol, 85.9 mg | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
product | [4-(2,4-Diamino-quinazolin-5-yl)-piperazin-1-yl]-(3,4-dichloro-phenyl)-methanone | 63% yield | NC1=NC2=CC=CC(=C2C(=N1)N)N1CCN(CC1)C(=O)C1=CC(=C(C=C1)Cl)Cl | C19H18Cl2N6O
